US07368567B2
Toluene-4-(R)-sulfonic acid 2,2-dimethyl-[1,3]dioxolan-4-yl-methyl ester (0.99 g; 0.003 mol) was added to a suspension of 4-benzenesulfonyl-2-bromo-phenol (0.91 g; 0.003 mol, prepared by the procedure of Sung-Eun et al. as described in Example 1) and potassium carbonate (0.88 g; 0.0006 mol) in acetonitrile (4 mL). The mixture was heated under reflux for 72 hours. After cooling to ambient temperature the mixture was diluted with ethyl acetate, filtered, washed with water and saturated sodium bicarbonate, dried (Na2SO4) and concentrated in vacuo. The crude material was purified by crystallization from diethyl ether-hexane to give 4-(S)-(4-benzenesulfonyl-2-bromo-phenoxymethyl)-2,2-dimethy-[3,3]dioxolan as a white crystalline (1.41 g; 84%). Mp. 115.8-118.5° C., [α]=+20.2° (methanol; c=1).

reactant | Toluene-4-(R)-sulfonic acid 2,2-dimethyl-[1,3]dioxolan-4-yl-methyl ester | 0.003 mol, 0.99 g | CC1(OC[C@@H](O1)COS(=O)(=O)C1=CC=C(C=C1)C)C | C13H18O5S
reactant | 4-benzenesulfonyl-2-bromo-phenol | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)O)Br | C12H9BrO3S
reactant | potassium carbonate | 0.0006 mol, 0.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(S)-(4-benzenesulfonyl-2-bromo-phenoxymethyl)-2,2-dimethy-[3,3]dioxolan | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(OC[C@H]2OC(CC2)(C)C)C=C1)Br | C19H21BrO4S
